US07947834B2
3.1: 4-Nitrophenyl 2,3-dihydro-4H-1,4-benzoxazine-4-carboxylate
1 g of 3,4-dihydro-2H-1,4-benzoxazine, 1.03 ml of triethylamine, 27 ml of tetrahydrofuran and then 1.5 g of para-nitrophenyl chloroformate are introduced into a 100 ml round-bottomed flask. The reaction mixture is stirred at ambient temperature for three hours and then filtered. The solvent is evaporated under reduced pressure and the residue is taken up in dichloromethane and washed with a 2N aqueous hydrochloric acid solution and then twice with water. The organic phase is dried over magnesium sulfate and the solvent is evaporated under reduced pressure to result in 2.1 g of 4-nitrophenyl 2,3-dihydro-4H-1,4-benzoxazine-4-carboxylate.

reactant | 3,4-dihydro-2H-1,4-benzoxazine | 1 g | O1CCNC2=C1C=CC=C2 | C8H9NO
reactant | triethylamine | 1.03 ml | C(C)N(CC)CC | C6H15N
reactant | para-nitrophenyl chloroformate | 1.5 g | ClC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
solvent | tetrahydrofuran | 27 ml | O1CCCC1 | C4H8O
product | 4-Nitrophenyl 2,3-dihydro-4H-1,4-benzoxazine-4-carboxylate | O1CCN(C2=C1C=CC=C2)C(=O)OC2=CC=C(C=C2)[N+](=O)[O-] | C15H12N2O5
